US07053255B2
(3) Synthesis of 9,10-bis(4-(1-pyrenyl)phenyl)anthracene (Compound 20)
9,10-bis(4-(1-Pyrenyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene (4.5 g, 5.9 mmole) was suspended in acetic acid (80 ml). To the resultant suspension, a 57% hydroiodic acid (15 ml, 0.11 mole, 20 eq) was added and the obtained mixture was stirred at 100° C. for 7 hours. To the reaction mixture, a 50% aqueous solution of hypophosphorous acid (30 ml) was added. The formed solid was separated by filtration and washed with water, methanol and acetone and a white solid (3.9 g, 90%) was obtained.

reactant | 9,10-bis(4-(1-Pyrenyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene | 5.9 mmole, 4.5 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C3(C4=CC=CC=C4C(C=4C=CC=CC34)(O)C3=CC=C(C=C3)C3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21)O | C58H36O2
reactant | hydroiodic acid | 0.11 mole, 15 ml, 20 eq | I | HI
reactant | hypophosphorous acid | 30 ml | [PH2](=O)O | H3O2P
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 9,10-bis(4-(1-pyrenyl)phenyl)anthracene | 3.9 g, 90% | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C=3C4=CC=CC=C4C(=C4C=CC=CC34)C3=CC=C(C=C3)C3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21 | C58H34
